US06818772B2
N-(3-bromo-5-methylphenyl)-N′-(7-chloroquinolin-4-yl)cyclohexane-1,4-diamine
A dry 250 mL 3-necked flask was charged with Pd2(dba)3 (266 mg, 2 mol %), BINAP, 384 mg, 4 mol %), and sodium t-butoxide (2.2 g, 0.023 mol) in 50 mL dry toluene. After 5 minutes, 23A cis-N,N′-bis(7-chloroquinolin-4-yl)cyclohexane-1,4-diamine (4.00 g, 0.0145 mol) was added in one portion followed by dibromotoluene (3.6 g, 0.0145 mol). The solution was heated at 70° C. under nitrogen overnight. The contents were filtered, concentrated and the residue was purified by flash chromatography (5% methanol in dichloromethane) to provide 1.03 g, a 16% yield. MS (ESI(+)Q1MS m/z 445 (M+2 H)+; 1 H NMR (300 MHz, MeOH) δ ppm 8.51 (d, 1 H), 8.37 (d, 1 H), 7.86 (d, 1 H), 7.69 (dd, 1 H), 6.96 (d, 1 H), 6.66 (s, 1 H), 6.61 (s, 1 H), 6.49 (s, 1 H), 3.98 (m, 1 H), 3.63 (m, 1 H), 2.22 (s, 3 H), 1.85-2.01 (m, 8 H).

reactant | BINAP | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium t-butoxide | 0.023 mol, 2.2 g | CC(C)([O-])C.[Na+]
reactant | cis-N,N′-bis(7-chloroquinolin-4-yl)cyclohexane-1,4-diamine | 0.0145 mol, 4.00 g | ClC1=CC=C2C(=CC=NC2=C1)N[C@@H]1CC[C@@H](CC1)NC1=CC=NC2=CC(=CC=C12)Cl | C24H22Cl2N4
reactant | dibromotoluene | 0.0145 mol, 3.6 g | BrC=1C(=C(C=CC1)C)Br | C7H6Br2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 266 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(3-bromo-5-methylphenyl)-N′-(7-chloroquinolin-4-yl)cyclohexane-1,4-diamine | 16% yield | BrC=1C=C(C=C(C1)C)NC1CCC(CC1)NC1=CC=NC2=CC(=CC=C12)Cl | C22H23BrClN3
